* Schematics Netlist *



R_RG1         $N_0002 $N_0001  10Meg  
R_RG2         0 $N_0002  1Meg  
M_M1         $N_0003 $N_0002 0 0 NMOS0P5           
C_Co         $N_0003 Vo  10uF  
C_Ci         $N_0004 $N_0002  10uF  
R_Rsig         Vi $N_0004  10k  
V_VDD         $N_0001 0 10V
V_Vi         Vi 0 DC 0 AC 0.1
+SIN 0 0.1 1k 0 0 0
R_RL         0 Vo  10k  
R_RD         $N_0003 $N_0001  12k  
